US04241072
A. N,N-Dimethyl-N'-(1-methyl-2-imidazolyl)-1,2-ethane-diamine
Dissolve 9.5 g. (0.0683 moles) of N-(1-methyl-2-imidazolyl)acetamide in 150 ml. of dimethylformamide under nitrogen. 3.375 g. (0.75 moles) of sodium hydride 50% suspension is added and stirred at 30°-40° C. until gas evolution ceases. The reaction mixture is cooled to room temperature and an additional 3.375 g. of sodium hydride added along with 10.8 g. (0.075 moles) of dimethylaminoethyl chloride hydrochloride. The reaction mixture is stirred at 30°-45° C. until gas evolution ceases and at 50° C. for 1/2 hour and at 90° C. for 2 hours. The mixture is cooled to room temperature, 20 ml. of ethanol added and the mixture evaporated in vacuo. The residue is taken up in 150 ml. of 6 N hydrochloric acid and refluxed for 24 hours. The aqueous acid layer is extracted with hexane and then neutralized with 50 ml. of saturated sodium carbonate. The aqueous layer is extracted with chloroform (100 ml., 10 times) the organic layer washed with saturated sodium chloride, and evaporated to dryness affording 8.8 g. of oil identified as N,N-dimethyl-N'-(1-methyl-2-imidaziolyl)-1,2-ethane-diamine, which is used as in the next step.

reactant | N-(1-methyl-2-imidazolyl)acetamide | 0.0683 moles | CN1C(=NC=C1)NC(C)=O | C6H9N3O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.75 moles | [H-].[Na+]
reactant | dimethylaminoethyl chloride hydrochloride | 0.075 moles | Cl.CN(C)CCCl
solvent | ethanol | C(C)O | C2H6O
product | N,N-Dimethyl-N'-(1-methyl-2-imidazolyl)-1,2-ethane-diamine | CN(CCNC=1N(C=CN1)C)C | C8H16N4
